US07517994B2
2-(4-Bromo-2-fluorophenylamino)-N-(2-hydroxyethoxy)-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxamide
Preparation of 2-(4-bromo-2-fluorophenylamino)-1,5-dimethyl-6-oxo-N-(2-(vinyloxy)ethoxy)-1,6-dihydropyridine-3-carboxamide: To a solution of methyl 2-(4-bromo-2-fluorophenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylate (0.060 g, 0.16 mmol) in THF (2 mL) was added O-(2-vinyloxy-ethyl)-hydroxylamine (0.042 ml, 0.41 mmol). The solution was cooled to 0° C. and lithium bis(trimethylsilyl)amide (0.81 ml, 0.81 mmol, 1 M solution in hexanes) was added dropwise. The reaction mixture was warmed to room temperature. After stirring for 35 minutes the reaction mixture was quenched by the addition of saturated NaHCO3 and partitioned between EtOAc and saturated NaCl. The layers were separated and the organic layer was dried (Na2SO4) and concentrated under reduced pressure. Purification by flash column chromatography (methylene chloride/MeOH, 20:1) gave 0.067 g (94%) pure desired product as an off-white crystalline solid.

reactant | 2-(4-bromo-2-fluorophenylamino)-1,5-dimethyl-6-oxo-N-(2-(vinyloxy)ethoxy)-1,6-dihydropyridine-3-carboxamide | BrC1=CC(=C(C=C1)NC=1N(C(C(=CC1C(=O)NOCCOC=C)C)=O)C)F | C18H19BrFN3O4
reactant | methyl 2-(4-bromo-2-fluorophenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylate | 0.16 mmol, 0.060 g | BrC1=CC(=C(C=C1)NC=1N(C(C(=CC1C(=O)OC)C)=O)C)F | C15H14BrFN2O3
reactant | O-(2-vinyloxy-ethyl)-hydroxylamine | 0.41 mmol, 0.042 ml | C(=C)OCCON | C4H9NO2
reactant | lithium bis(trimethylsilyl)amide | 0.81 mmol, 1 M, 0.81 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-(4-Bromo-2-fluorophenylamino)-N-(2-hydroxyethoxy)-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxamide | 0.067 g, 94% | BrC1=CC(=C(C=C1)NC=1N(C(C(=CC1C(=O)NOCCO)C)=O)C)F | C16H17BrFN3O4
